US08278324B2
5-Methyl-1,2,3,4-tetrahydro-6-isoquinolinol
To a solution of 5-methyl-6-(methyloxy)-3,4-dihydro-2(1H)-isoquinolinecarbaldehyde (Preparation 12; 1.49 g; 7.26 mmol) in dichloromethane (25 ml) at 0° C. under nitrogen was slowly added boron tribromide (9.09 g; 36.3 mmol). After 85 min at 0° C., methanol (25 ml) was added slowly, and the resulting mixture was left standing at room temperature for three days. Removal of the solvent and trituration with methanol/dichloromethane gave a white solid residue; the mother liquors were concentrated and the residue applied to an SCX solid phase extraction cartridge (20 g) and eluted with methanol followed by 2N ammonia in methanol to elute the product. After evaporation of the solvent the title compound (780 mg) was obtained as a pale yellow solid.

reactant | 5-methyl-6-(methyloxy)-3,4-dihydro-2(1H)-isoquinolinecarbaldehyde | 7.26 mmol, 1.49 g | CC1=C2CCN(CC2=CC=C1OC)C=O | C12H15NO2
reactant | boron tribromide | 36.3 mmol, 9.09 g | B(Br)(Br)Br | BBr3
reactant | methanol | 25 ml | CO | CH4O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5-Methyl-1,2,3,4-tetrahydro-6-isoquinolinol | CC1=C2CCNCC2=CC=C1O | C10H13NO
